US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-ethynyl-pyridin-3-ylmethyl)-amide (21)
1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-trimethylsilanylethynyl-pyridin-3-ylmethyl)-amide (70.0 mg, 0.158 mmol) was dissolved in THF (1.0 mL) and treated with a 1 M solution of TBAF in THF (0.16 mL, 0.16 mmol) at room temperature. The solution was stirred for 2 hours and then diluted with diethyl ether (10 mL) and quenched with water (10 mL). The aqueous layers were extracted with diethyl ether (3×5 mL). The combined organic layers were washed with brine (10 mL), dried over MgSO4 and concentrated. The crude product was purified by silica gel chromatography eluting with a gradient of 0-70% ethyl acetate in hexanes to afford the title compound as a white solid.

reactant | 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-trimethylsilanylethynyl-pyridin-3-ylmethyl)-amide | 0.158 mmol, 70.0 mg | C[Si](C)(C)C#CC1=CC=C(C=N1)CNC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C25H23FN4OSi
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | THF | 0.16 mmol, 0.16 mL | C1CCOC1 | C4H8O
product | 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-ethynyl-pyridin-3-ylmethyl)-amide | C(#C)C1=CC=C(C=N1)CNC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C22H15FN4O
